US06972294B1
(2S)-3-{4-[3,3-Bis-(4-bromophenyl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester
Reaction of 3,3-bis-(4-bromophenyl)-prop-2-en-1-ol (2.60 g, 7.0 mmol), tributylphosphine (2.52 g, 10.0 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (1.50 g, 6.3 mmol) and azodicarboxylic dipiperidide (2.02 g, 10.0 mmol) in an identical manner to example 3 gave the title compound (2.8 g, 75%).

reactant | 3,3-bis-(4-bromophenyl)-prop-2-en-1-ol | 7.0 mmol, 2.60 g | BrC1=CC=C(C=C1)C(=CCO)C1=CC=C(C=C1)Br | C15H12Br2O
reactant | tributylphosphine | 10.0 mmol, 2.52 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 6.3 mmol, 1.50 g | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
product | (2S)-3-{4-[3,3-Bis-(4-bromophenyl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 2.8 g, 75% | C(C)OC([C@H](CC1=CC=C(C=C1)OCC=C(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)OCC)=O | C28H28Br2O4
